US04826963
Preparation of Ipriflavon-γ-cyclodextrin inclusion complex having a molar ratio of 1:2
0.5 g (1.78 mmoles) of Ipriflavon were dissolved in 10 ml of acetone in pulg mortar and 4.0 g (3.70 mmoles) of γ-cyclodextrin of 10% by weight moisture content and 2 ml of distilled water were added. The light suspension thus obtained was homogenized with a standing rubbing until the solvent was evaporated. Thereafter the product thus obtained was dried for 24 hours at 60° C. It contains 11.1% of active ingredient and also free γ-cyclodextrin. Molar ratio of Ipriflavon to α-cyclodextrin=1:2.1.

reactant | Ipriflavon | 1.78 mmoles, 0.5 g | CC(C)OC=1C=CC2=C(C1)OC=C(C2=O)C=3C=CC=CC3 | C18H16O3
reactant | γ-cyclodextrin | 3.70 mmoles, 4.0 g | C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](OC([C@@H]([C@H]5O)O)OC6[C@H](OC([C@@H]([C@H]6O)O)C7[C@H](OC([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@@H]([C@@H]([C@H]8O)O)O[C@@H]9[C@H](O[C@H](O2)[C@@H]([C@H]9O)O)CO)CO)CO)CO)CO)CO)CO)O)O)O | C48H80O39
reactant | water | 2 ml | O | H2O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | Ipriflavon γ-cyclodextrin | CC(C)OC=1C=CC2=C(C1)OC=C(C2=O)C=3C=CC=CC3.C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](OC([C@@H]([C@H]5O)O)OC6[C@H](OC([C@@H]([C@H]6O)O)C7[C@H](OC([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@@H]([C@@H]([C@H]8O)O)O[C@@H]9[C@H](O[C@H](O2)[C@@H]([C@H]9O)O)CO)CO)CO)CO)CO)CO)CO)O)O)O | InChI=1S/C48H80O39.C18H16O3/c49-1-9-17-18(57)27(66)42(74-9)82-35-11(3-51)76-44(29(68)21(35)60)84-37-13(5-53)78-46(31(70)23(37)62)86-39-15(7-55)80-48(33(72)25(39)64)87-40-16(8-56)79-47(32(71)26(40)65)85-38-14(6-54)77-45(30(69)24(38)63)83-36-12(4-52)75-43(28(67)22(36)61)81-34-10(2-50)73-41(17)20(59)19(34)58;1-12(2)21-14-8-9-15-17(10-14)20-11-16(18(15)19)13-6-4-3-5-7-13/h9-72H,1-8H2;3-12H,1-2H3/t9-,10-,11-,12-,13-,14-,15-,16-,17?,18+,19-,20-,21-,22-,23-,24-,25-,26-,27-,28-,29-,30-,31-,32-,33-,34?,35-,36-,37-,38-,39-,40-,41?,42?,43?,44-,45-,46-,47-,48-;/m1./s1
